US08912219B2
A mixture of 3-aminobutan-1-ol (1.8 g, 20.2 mmol), 4-bromo-2-fluorobenzaldehyde (4.1 g, 20.2 mmol), and ZnCl2 (28 mg, 0.202 mmol) in MeOH (20 mL) was stirred at ambient temperature for 1 hour. To the mixture at 0° C. was added NaBH4 (3.84 g, 101 mmol) and stirred at ambient temperature for 22 hours. The reaction mixture was quenched with H2O and extracted with EtOAc (30 mL×4). The extracts were combined, washed with brine (20 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography using petroleumn ether/EtOAc (5/1) and EtOAc/NEt3 (500/1) as eluting solvents to afford 3-(4-bromo-2-fluorobenzylamino)butan-1-ol as corlorless oil (3.2 g, 57%). 1H-NMR (500 MHz, CDCl3) δ 7.25-7.20 (m, 3H), 3.90 (d, 1H), 3.87-3.83 (m, 1H), 3.77-3.173 (m, 2H), 3.00-2.93 (m, 2H), 1.77-1.71 (m, 1H), 1.59-1.52 (m, 1H), 1.20 (d, 3H); LCMS (ESI): m/z=276.1 [M+H]+.

reactant | 3-aminobutan-1-ol | 20.2 mmol, 1.8 g | NC(CCO)C | C4H11NO
reactant | 4-bromo-2-fluorobenzaldehyde | 20.2 mmol, 4.1 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | NaBH4 | 101 mmol, 3.84 g | [BH4-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
catalyst | ZnCl2 | 0.202 mmol, 28 mg | [Cl-].[Cl-].[Zn+2]
product | 3-(4-bromo-2-fluorobenzylamino)butan-1-ol | 3.2 g, 57% | BrC1=CC(=C(CNC(CCO)C)C=C1)F | C11H15BrFNO
